US07915261B2
Potassium carbonate (1.04 g) and ethyl bromoacetate (0.610 ml) were added to an acetonitrile (15 ml) solution containing 4-hydroxybenzamide (686 mg), followed by heating at 80° C. for 2 hours. The reaction solution was cooled, water (45 ml) was added thereto, and the precipitated solid was collected by filtration, washed with water and dried to obtain ethyl [4-(aminocarbonyl)phenoxy]acetate (893 mg) as pale brown powder.

reactant | Potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.610 ml | BrCC(=O)OCC | C4H7BrO2
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | 4-hydroxybenzamide | 686 mg | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
solvent | water | 45 ml | O | H2O
product | ethyl [4-(aminocarbonyl)phenoxy]acetate | 893 mg | NC(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C11H13NO4
